US05221600
Preparation of intermediate S-8, 1-(2-morpholinoethyl)-2-tetrazoline-5-thione
To a mechanically stirred slurry of 25.8 g (0.15 mole) of 2-morpholinoethylisothiocyanate (S-7) in 250 ml ethanol under a nitrogen atmosphere was added in a slow stream 19.5 g (0.3 mole) of sodium azide dissolved in 600 ml water. The resultant solution was refluxed for 16 hrs, cooled to room temperature (20° C.) and filtered. The filtrate was extracted twice with ether, and then acidified to pH=1 with concentrated hydrochloric acid. The resultant solution was extracted three times with ether. The pH of the aqueous solution was adjusted to 4.5 using a 50% NaOH solution and a fine white precipitate formed. The precipitate was collected by filtration to yield 17.1 grams of intermediate S-8 with a melting point of 226°-8° C.

reactant | 2-morpholinoethylisothiocyanate | 0.15 mole, 25.8 g | O1CCN(CC1)CCN=C=S | C7H12N2OS
reactant | sodium azide | 0.3 mole, 19.5 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 600 ml | O | H2O
product | 1-(2-morpholinoethyl)-2-tetrazoline-5-thione | 17.1 grams | O1CCN(CC1)CCN1N=NNC1=S | C7H13N5OS
